US07595397B2
(S) 3-Benzyl-1-(2′,5′-dichloro-biphenyl-4-ylmethyl)-piperazine
0.1 g of 3-(S)-benzyl-1-(4-bromo-benzyl)-piperazine were combined with 1.5 equiv. of 2,5-dichlorophenyl boronic acid, 0.05 equiv. of tetrakis(triphenylphosphine)palladium(0), 6 equiv. of 2M aqueous sodium carbonate solution, toluene and ethanol. The reaction mixture was heated at 85° C. under nitrogen overnight. The reaction mixture was concentrated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude material was purified by flash chromatography to afford 0.07 g of the title compound. Yield 59% ES MS (+) m/z 411.

reactant | 3-(S)-benzyl-1-(4-bromo-benzyl)-piperazine | 0.1 g | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)Br | C18H21BrN2
reactant | 2,5-dichlorophenyl boronic acid | 1.5 equiv. | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | sodium carbonate | 2M, 6 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | C(C)O | C2H6O
product | 3-Benzyl-1-(2′,5′-dichloro-biphenyl-4-ylmethyl)-piperazine | 0.07 g, Yield 59% | C(C1=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)Cl | C24H24Cl2N2
